US04154834
Treatment of 2-methylthio-5-(3-pyridylmethyl)-6-methyl-4-pyrimidone with 2-(5-methyl-4-imidazolylmethylthio)ethylamine in refluxing pyridine for 25 hours, followed by evaporation of the mixture and chromatographic purification of the residue on silica gel (eluting with chloroform/methanol 5:1) gave 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(3-pyridylmethyl)-6-methyl-4-pyrimidone m.p. 128°-131°.

reactant | 2-methylthio-5-(3-pyridylmethyl)-6-methyl-4-pyrimidone | CSC1=NC(=C(C(N1)=O)CC=1C=NC=CC1)C | C12H13N3OS
reactant | 2-(5-methyl-4-imidazolylmethylthio)ethylamine | CC1=C(N=CN1)CSCCN | C7H13N3S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[2-(5-methyl-4-imidazolylmethylthio)ethylamino]-5-(3-pyridylmethyl)-6-methyl-4-pyrimidone | CC1=C(N=CN1)CSCCNC1=NC(=C(C(N1)=O)CC=1C=NC=CC1)C | C18H22N6OS
